US08349833B2
7-(2-Chlorophenyl)-2,2 dimethyl-7-(1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-yl)-heptanoic acid ethyl ester (0.21 g, 0.51 mmol) was added to a mixture of ethanol (10 mL), water (2.70 mL), and sodium hydroxide (0.14 g, 3.54 mmol). The mixture was heated to reflux (95-98° C. oil bath) for 16 hours. After 26 hours, the flask was cooled to room temperature and the solvent was evaporated under reduced pressure. Water (15 mL) was added to the residue and the product was extracted with diethyl ether (15 mL). The extract was discarded and the aqueous portion was adjusted pH=6 with 10 N hydrochloric acid. The product was extracted with dichloromethane (3×15 mL) and the combined dichloromethane layers were washed with water (20 mL) and brine (20 mL). The dichloromethane solution was dried over sodium sulfate, filtered, and concentrated in under reduced pressure. The crude product was purified by column chromatography (silica gel, MeOH/CH2Cl2=1/9) to afford 7-(2-chlorophenyl)-2,2 dimethyl-7-(1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-yl)-heptanoic acid (Compound Ik, 0.11 g, 57.9% yield) as a yellow oil. 1H NMR (Field: 300 MHz, Solvent: DMSO/TMS) δ (ppm): 12.10 (br, 1H), 10.30 (br, 1H), 7.53 (m, 1H), 7.43 (d, 1H, J=7.2 Hz), 7.36-7.25 (m, 2H), 6.50 (s, 1H), 5.71 (s, 1H), 4.10 (m, 1H), 3.39 (m, 2.75 (m, 1H), 1.14 (m, 2H), 1.34 (m, 2H), 1.23-1.07 (m, 4H), 1.03 (s, 6H). 13C NMR (Field: 75 MHz, Solvent: DMSO/TMS) δ (ppm) 178.45, 178.97, 133.83, 129.07, 128.23, 126.93, 123.97, 115.83, 113.99, 104.19, 63.11, 48.27, 47.60, 41.19, 40.06, 31.59, 25.84, 25.03, 24.96, 24.55, 23.34.

reactant | 7-(2-Chlorophenyl)-2,2 dimethyl-7-(1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-yl)-heptanoic acid ethyl ester | 0.51 mmol, 0.21 g | C(C)OC(C(CCCCC(N1CC2=C(CC1)NC=C2)C2=C(C=CC=C2)Cl)(C)C)=O | C24H33ClN2O2
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 3.54 mmol, 0.14 g | [OH-].[Na+]
solvent | water | 2.70 mL | O | H2O
product | 7-(2-chlorophenyl)-2,2 dimethyl-7-(1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-yl)-heptanoic acid | 0.11 g, 57.9% yield | ClC1=C(C=CC=C1)C(CCCCC(C(=O)O)(C)C)N1CC2=C(CC1)NC=C2 | C22H29ClN2O2
